*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.2
* < ILD_dielectric_const = 3.7
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_0 1 2 3 4 REF
C_C1 1 REF 0.7472794302659pf
C_C2 1 2 17.469622960405pf
C_C3 1 3 0.0291982383286pf
C_C4 1 4 0.2397701031134pf
C_C5 2 REF 0.970627266273pf
C_C6 2 3 0.1250731321383pf
C_C7 3 REF 0.5908044971639pf
C_C8 3 4 5.3507064977078pf
C_C9 4 REF 0.5983218818688pf
L_L1 3 5 1.296793626507nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_1 1 2 3 4 REF
C_C1 1 REF 0.628721615682pf
C_C2 1 2 17.879702531828pf
C_C3 1 3 0.0267928935527pf
C_C4 1 4 0.2442329879732pf
C_C5 2 REF 0.8588991028492pf
C_C6 2 3 0.1255007677218pf
C_C7 3 REF 0.5928852461091pf
C_C8 3 4 3.9604530194662pf
C_C9 4 REF 0.5970906494342pf
L_L1 3 5 1.2979112883777nh
R_RL1 5 4 1.8309721781e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_2 1 2 3 4 REF
C_C1 1 REF 0.534088050218pf
C_C2 1 2 18.32805962546pf
C_C3 1 3 0.024409551857pf
C_C4 1 4 0.2491042592557pf
C_C5 2 REF 0.771538569036pf
C_C6 2 3 0.126052511387pf
C_C7 3 REF 0.5948038745955pf
C_C8 3 4 2.9877760113647pf
C_C9 4 REF 0.5963479772423pf
L_L1 3 5 1.298843378758nh
R_RL1 5 4 1.1499208995e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_3 1 2 3 4 REF
C_C1 1 REF 0.4455102058951pf
C_C2 1 2 18.938342225467pf
C_C3 1 3 0.0214555525709pf
C_C4 1 4 0.2558135670301pf
C_C5 2 REF 0.692773691941pf
C_C6 2 3 0.1269616604293pf
C_C7 3 REF 0.5969406686468pf
C_C8 3 4 2.1489042171928pf
C_C9 4 REF 0.595899759161pf
L_L1 3 5 1.2997880576431nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_4 1 2 3 4 REF
C_C1 1 REF 0.3726535993293pf
C_C2 1 2 19.724608307388pf
C_C3 1 3 0.0179832762368pf
C_C4 1 4 0.2646182046837pf
C_C5 2 REF 0.6326368970906pf
C_C6 2 3 0.1283768572298pf
C_C7 3 REF 0.599089747065pf
C_C8 3 4 1.4748057394691pf
C_C9 4 REF 0.5957794174472pf
L_L1 3 5 1.3007339036179nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_5 1 2 3 4 REF
C_C1 1 REF 0.3266341716392pf
C_C2 1 2 20.578620678504pf
C_C3 1 3 0.0145280264974pf
C_C4 1 4 0.2743664081381pf
C_C5 2 REF 0.6006202120603pf
C_C6 2 3 0.1301982475612pf
C_C7 3 REF 0.6008013206555pf
C_C8 3 4 1.0273022746238pf
C_C9 4 REF 0.5959205865195pf
L_L1 3 5 1.301499423498nh
R_RL1 5 4 -1.29955356e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_6 1 2 3 4 REF
C_C1 1 REF 0.2987812347346pf
C_C2 1 2 21.507189596674pf
C_C3 1 3 0.0110277031485pf
C_C4 1 4 0.2851181446766pf
C_C5 2 REF 0.5881645244638pf
C_C6 2 3 0.1324549370929pf
C_C7 3 REF 0.6021126848411pf
C_C8 3 4 0.7197131506135pf
C_C9 4 REF 0.5961856567988pf
L_L1 3 5 1.3021295276351nh
R_RL1 5 4 -1.98566263e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_7 1 2 3 4 REF
C_C1 1 REF 0.2809128147714pf
C_C2 1 2 22.706672220326pf
C_C3 1 4 0.2991343667433pf
C_C4 2 REF 0.590274289529pf
C_C5 2 3 0.135704708229pf
C_C6 3 REF 0.6032009194139pf
C_C7 3 4 0.4732694010986pf
C_C8 4 REF 0.5965491774517pf
L_L1 3 5 1.3027251525624nh
R_RL1 5 4 -2.649843736e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_8 1 2 3 4 REF
C_C1 1 REF 0.2707741321974pf
C_C2 1 2 24.235961733618pf
C_C3 1 4 0.3170572192527pf
C_C4 2 REF 0.6054714990993pf
C_C5 2 3 0.1402213461426pf
C_C6 3 REF 0.6039837922895pf
C_C7 3 4 0.2825612929011pf
C_C8 4 REF 0.5969554171358pf
L_L1 3 5 1.303288673276nh
R_RL1 5 4 -3.258130982e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_9 1 2 3 4 REF
C_C1 1 REF 0.2647467237225pf
C_C2 1 2 26.230414417432pf
C_C3 1 4 0.3403474354757pf
C_C4 2 REF 0.6319362465689pf
C_C5 2 3 0.1465417319474pf
C_C6 3 REF 0.6044070746143pf
C_C7 3 4 0.1410876329746pf
C_C8 4 REF 0.5973598405766pf
L_L1 1 5 87.700647934645nh
R_RL1 5 2 6.9658023002335
L_L2 3 6 1.3037686590872nh
R_RL2 6 4 -3.721514577e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_10 1 2 3 4 REF
C_C1 1 REF 0.2578109677726pf
C_C2 1 2 28.843794388705pf
C_C3 1 4 0.3705882172093pf
C_C4 2 REF 0.6665264568824pf
C_C5 2 3 0.1552489533516pf
C_C6 3 REF 0.6044876458389pf
C_C7 3 4 0.0378620382811pf
C_C8 4 REF 0.5977343469278pf
L_L1 1 5 54.965788169335nh
R_RL1 5 2 3.7838202597536
L_L2 3 6 1.3041722602334nh
R_RL2 6 4 -3.98996076e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_11 1 2 3 4 REF
C_C1 1 REF 0.2443253874362pf
C_C2 1 2 32.408049773239pf
C_C3 1 4 0.4112930868714pf
C_C4 2 REF 0.7079962946366pf
C_C5 2 3 0.1675570196112pf
C_C6 3 REF 0.6042542618172pf
C_C7 4 REF 0.5980802604128pf
L_L1 1 5 34.079506165418nh
R_RL1 5 2 1.6337735653269
L_L2 3 6 1.30424614098nh
R_RL2 6 4 -3.984578825e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_12 1 2 3 4 REF
C_C1 1 REF 0.2184780067636pf
C_C2 1 2 37.395813240907pf
C_C3 1 4 0.4674789789976pf
C_C4 2 REF 0.7569364736216pf
C_C5 2 3 0.1851599505662pf
C_C6 3 REF 0.6037704342004pf
C_C7 4 REF 0.5984323653242pf
L_L1 1 5 20.642818925078nh
R_RL1 5 2 0.4933499102308
L_L2 3 6 1.3039906631455nh
R_RL2 6 4 -3.665510576e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_13 1 2 3 4 REF
C_C1 1 REF 0.1715042632058pf
C_C2 1 2 44.862409390031pf
C_C3 1 4 0.5505501985307pf
C_C4 2 REF 0.8194084171914pf
C_C5 2 3 0.2118283603809pf
C_C6 3 REF 0.6030743551253pf
C_C7 4 REF 0.5988763076986pf
L_L1 1 5 12.089743792765nh
R_RL1 5 2 0.1018157114822
L_L2 3 6 1.3035242631607nh
R_RL2 6 4 -2.998499076e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_14 1 2 3 4 REF
C_C1 1 REF 0.0895777617237pf
C_C2 1 2 56.744936774402pf
C_C3 1 4 0.6815996087194pf
C_C4 2 REF 0.9092087447157pf
C_C5 2 3 0.2544570589829pf
C_C6 3 REF 0.6021835866525pf
C_C7 4 REF 0.5995761268465pf
R_R1 1 2 661.96548369048
L_L1 1 5 6.7788724935395nh
R_RL1 5 2 0.1931493917909
L_L2 3 6 1.3027774794548nh
R_RL2 6 4 -1.970824815e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_15 1 2 3 4 REF
C_C1 1 2 78.177041509475pf
C_C2 1 4 0.9167597151748pf
C_C3 2 REF 1.0638460702536pf
C_C4 2 3 0.3313601748566pf
C_C5 3 REF 0.6010096187037pf
C_C6 4 REF 0.6009376750487pf
R_R1 1 2 256.73958690816
L_L1 1 5 3.4804182440476nh
R_RL1 5 2 -0.234365738389
L_L2 3 6 1.3014032325514nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_16 1 2 3 4 REF
C_C1 1 2 128.40865770058pf
C_C2 1 4 1.4667779078492pf
C_C3 2 REF 1.4225106518473pf
C_C4 2 3 0.5113374683523pf
C_C5 3 REF 0.5990491698451pf
C_C6 4 REF 0.6044439171758pf
R_R1 1 2 92.033651145385
L_L1 1 5 1.4370890843948nh
R_RL1 5 2 -0.160812367809
L_L2 1 6 62.556581355573nh
R_RL2 6 3 -0.207523248912
L_L3 1 7 61.819741374802nh
R_RL3 7 4 -0.208252011381
L_L4 2 8 62.65515607143nh
R_RL4 8 3 0.0189600374907
L_L5 2 9 61.921285145083nh
R_RL5 9 4 0.0186006741936
L_L6 3 10 1.2982757845671nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 0.0705853695926
Kn_K2 L_L1 L_L3 0.0708472822385
Kn_K3 L_L1 L_L4 -0.080918141193
Kn_K4 L_L1 L_L5 -0.081553608141
Kn_K5 L_L2 L_L3 0.9895790785621
Kn_K6 L_L2 L_L4 0.9885230350039
Kn_K7 L_L2 L_L5 0.9780141766883
Kn_K8 L_L2 L_L6 -0.112911750674
Kn_K9 L_L3 L_L4 0.9780706482206
Kn_K10 L_L3 L_L5 0.9883866495658
Kn_K11 L_L3 L_L6 0.031334519472
Kn_K12 L_L4 L_L5 0.9895956518531
Kn_K13 L_L4 L_L6 -0.112658295608
Kn_K14 L_L5 L_L6 0.0314743875948
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_17 1 2 3 4 REF
C_C1 1 2 312.77845706189pf
C_C2 1 4 3.4847790641408pf
C_C3 2 REF 2.7410717091072pf
C_C4 2 3 1.1712466656708pf
C_C5 3 REF 0.5936171597031pf
C_C6 4 REF 0.618332456031pf
R_R1 1 2 20.227036711478
L_L1 1 5 48.694118519609nh
R_RL1 5 REF -1.932982028913
L_L2 1 6 0.4004738565398nh
R_RL2 6 2 -0.072031520223
L_L3 1 7 20.357335099096nh
R_RL3 7 3 -0.067704679226
L_L4 1 8 19.670087122377nh
R_RL4 8 4 -0.068996031053
L_L5 2 9 48.398876522574nh
R_RL5 9 REF -2.081445225025
L_L6 2 10 20.429685140073nh
R_RL6 10 3 0.0038777266232
L_L7 2 11 19.746497139889nh
R_RL7 11 4 0.0037277525023
L_L8 3 12 68.578645679747nh
R_RL8 12 REF -2.04485762934
L_L9 3 13 1.2869966838403nh
R_RL9 13 4 2.2182989607e-5
L_L10 4 14 67.882031554666nh
R_RL10 14 REF -2.04704474408
Kn_K1 L_L1 L_L2 0.0787728511776
Kn_K2 L_L1 L_L5 0.9958799621293
Kn_K3 L_L1 L_L8 0.8385524283738
Kn_K4 L_L1 L_L10 0.8427626578234
Kn_K5 L_L2 L_L3 0.0574592839556
Kn_K6 L_L2 L_L4 0.057731168803
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082651644912
Kn_K9 L_L2 L_L7 -0.084791149486
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9679898125144
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9901828985043
Kn_K15 L_L3 L_L7 0.9579323496213
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.19285095762
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9581913756552
Kn_K21 L_L4 L_L7 0.9898418253397
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0596001659635
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.837915956461
Kn_K26 L_L5 L_L10 0.8420872644866
Kn_K27 L_L6 L_L7 0.9681061581916
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.192113282394
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.059887421086
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.105570676474
Kn_K35 L_L8 L_L10 0.9905816431349
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_18 1 2 3 4 REF
C_C1 1 2 9117.3034819738pf
C_C2 1 4 98.755519654222pf
C_C3 2 REF 63.552445245382pf
C_C4 2 3 33.732214376022pf
C_C5 3 REF 0.3674629961686pf
C_C6 3 4 0.1760659195534pf
C_C7 4 REF 1.2751490691936pf
R_R1 1 REF -3.13958768759
R_R2 1 2 0.0230577273947
R_R3 1 3 -6.598341587303
R_R4 1 4 2.0892351611952
R_R5 2 REF 3.1397129816443
R_R6 2 3 6.5996313105803
R_R7 2 4 -2.08964950779
R_R8 3 REF -897.2682606236
R_R9 3 4 598.06842906366
R_R10 4 REF 284.66502150654
L_L1 1 5 1.1244496812485nh
R_RL1 5 REF -1.484448394e-3
L_L2 1 6 0.0036615866003nh
R_RL2 6 2 -0.017026683942
L_L3 1 7 1.0288948917303nh
R_RL3 7 3 -4.926560144e-3
L_L4 1 8 0.5839700441835nh
R_RL4 8 4 -0.012256128228
L_L5 2 9 1.112092852678nh
R_RL5 9 REF -0.020301144747
L_L6 2 10 1.0294395830583nh
R_RL6 10 3 -3.585850597e-3
L_L7 2 11 0.5918255056497nh
R_RL7 11 4 -3.811072268e-4
L_L8 3 12 2.1452604703755nh
R_RL8 12 REF -7.305040932e-3
L_L9 3 13 0.8887631687513nh
R_RL9 13 4 -1.608207259e-3
L_L10 4 14 1.6952068696802nh
R_RL10 14 REF -0.015218234573
Kn_K1 L_L1 L_L2 0.1248202022979
Kn_K2 L_L1 L_L5 0.998378074147
Kn_K3 L_L1 L_L8 0.7213832094878
Kn_K4 L_L1 L_L10 0.8096541483226
Kn_K5 L_L2 L_L3 0.0253905468138
Kn_K6 L_L2 L_L4 -0.045347727948
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.034255702856
Kn_K9 L_L2 L_L7 -0.123702845514
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.064077484489
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.4670773648156
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9982211274682
Kn_K16 L_L3 L_L7 0.4619700408534
Kn_K17 L_L3 L_L8 0.7541375001878
Kn_K18 L_L3 L_L9 -0.697341840024
Kn_K19 L_L3 L_L10 0.84641636706
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.469658297032
Kn_K22 L_L4 L_L7 0.9969081135153
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.3080395581783
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7212035175777
Kn_K27 L_L5 L_L10 0.8067794507216
Kn_K28 L_L6 L_L7 0.4692253869325
Kn_K29 L_L6 L_L8 0.7495971547033
Kn_K30 L_L6 L_L9 -0.693335777646
Kn_K31 L_L6 L_L10 0.8385421950869
Kn_K32 L_L7 L_L8 0.9886248488468
Kn_K33 L_L7 L_L9 0.3110285302011
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.4847949735571
Kn_K36 L_L8 L_L10 0.7739117962478
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_19 1 2 3 4 REF
C_C1 1 REF 59.440918326935pf
C_C2 1 3 31.346025546704pf
C_C3 2 4 92.072060515304pf
C_C4 3 REF 0.8175124906354pf
R_R1 1 REF 3.7589284536159
R_R2 1 2 -0.027676888278
R_R3 1 3 7.9387367548797
R_R4 1 4 -2.505833094557
R_R5 2 REF -3.760512504488
R_R6 2 3 -7.940334324399
R_R7 2 4 2.5063292916199
R_R8 3 4 -717.8974411855
R_R9 4 REF -340.6602554104
L_L1 1 5 1.0011585016225nh
R_RL1 5 REF -1.35387077e-3
L_L2 1 6 1.806705761e-4nh
R_RL2 6 2 0.0272534023654
L_L3 1 7 0.946498404135nh
R_RL3 7 3 0.0065787435228
L_L4 1 8 0.5218954431868nh
R_RL4 8 4 0.0191745018426
L_L5 2 9 0.9866218725633nh
R_RL5 9 REF 0.0268654971671
L_L6 2 10 0.9467656505595nh
R_RL6 10 3 0.0070454016338
L_L7 2 11 0.5312944461386nh
R_RL7 11 4 7.0065578486e-4
L_L8 3 12 1.9397685634611nh
R_RL8 12 REF 0.0056650601581
L_L9 3 13 0.8508794295674nh
R_RL9 13 4 0.0033114980575
L_L10 4 14 1.519095169136nh
R_RL10 14 REF 0.0185758694134
Kn_K1 L_L1 L_L2 0.5471457142263
Kn_K2 L_L1 L_L5 0.9999358479814
Kn_K3 L_L1 L_L8 0.7155864900993
Kn_K4 L_L1 L_L10 0.8102134269704
Kn_K5 L_L2 L_L4 -0.474664661708
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.017123896315
Kn_K8 L_L2 L_L7 -0.488887980765
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 -0.368253260805
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.4393042560756
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9999045818698
Kn_K15 L_L3 L_L7 0.4354621468238
Kn_K16 L_L3 L_L8 0.7359589811728
Kn_K17 L_L3 L_L9 -0.710641418713
Kn_K18 L_L3 L_L10 0.8332799130444
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.4457993130051
Kn_K21 L_L4 L_L7 0.9998682712253
Kn_K22 L_L4 L_L8 0.9911098676828
Kn_K23 L_L4 L_L9 0.3198420784153
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.7154883373684
Kn_K26 L_L5 L_L10 0.8063846570632
Kn_K27 L_L6 L_L7 0.4421542283478
Kn_K28 L_L6 L_L8 0.730393134249
Kn_K29 L_L6 L_L9 -0.705454028297
Kn_K30 L_L6 L_L10 0.8231829735324
Kn_K31 L_L7 L_L8 0.9750127403666
Kn_K32 L_L7 L_L9 0.3237911564813
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.4948749152968
Kn_K35 L_L8 L_L10 0.7596394799407
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_20 1 2 3 4 REF
C_C1 1 2 194.97883481165pf
C_C2 1 4 2.1922806362328pf
C_C3 2 REF 1.8993496572029pf
C_C4 2 3 0.748479796651pf
C_C5 3 REF 0.5943535954604pf
C_C6 4 REF 0.60648468374pf
R_R1 1 2 -35.25848904363
L_L1 1 5 53.389221767805nh
R_RL1 5 REF -3.353400853714
L_L2 1 6 0.208160670484nh
R_RL2 6 2 0.025930613784
L_L3 1 7 19.003987320136nh
R_RL3 7 3 -6.225202567e-3
L_L4 1 8 18.295144599234nh
R_RL4 8 4 -5.817546673e-3
L_L5 2 9 52.8351307559nh
R_RL5 9 REF -3.381003022023
L_L6 2 10 19.153385120018nh
R_RL6 10 3 0.009894562173
L_L7 2 11 18.452755376273nh
R_RL7 11 4 0.0091176232782
L_L8 3 12 72.006446441145nh
R_RL8 12 REF -3.431182039321
L_L9 3 13 1.2834654771941nh
R_RL9 13 4 6.2102317782e-5
L_L10 4 14 71.284581609096nh
R_RL10 14 REF -3.434441657952
Kn_K1 L_L1 L_L2 0.1143252768369
Kn_K2 L_L1 L_L5 0.9980539458791
Kn_K3 L_L1 L_L8 0.8579563445035
Kn_K4 L_L1 L_L10 0.8621839165175
Kn_K5 L_L2 L_L3 0.0147724082906
Kn_K6 L_L2 L_L4 0.0129515869819
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.089535438602
Kn_K9 L_L2 L_L7 -0.093314654859
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9657643516037
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9945523032566
Kn_K15 L_L3 L_L7 0.9600620689987
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.201702863906
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.960640257366
Kn_K21 L_L4 L_L7 0.9943445860489
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0592915503534
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8567406836129
Kn_K26 L_L5 L_L10 0.8608946508043
Kn_K27 L_L6 L_L7 0.9660385259965
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.20008643625
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0598816097655
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1042985179208
Kn_K35 L_L8 L_L10 0.991055522049
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_21 1 2 3 4 REF
C_C1 1 REF 0.1139901814476pf
C_C2 1 2 55.235662756466pf
C_C3 1 4 0.6588310413834pf
C_C4 2 REF 0.8994076970204pf
C_C5 2 3 0.2491059704911pf
C_C6 3 REF 0.5971336077695pf
C_C7 4 REF 0.5943866071806pf
R_R1 1 2 -289.2729023174
L_L1 1 5 0.6582955798662nh
R_RL1 5 2 -0.299141264203
L_L2 1 6 67.789407174922nh
R_RL2 6 3 -0.151240930004
L_L3 1 7 66.909043497487nh
R_RL3 7 4 -0.147932111942
L_L4 2 8 68.675331734796nh
R_RL4 8 3 -0.782861548224
L_L5 2 9 67.801474105278nh
R_RL5 9 4 -0.774628669924
L_L6 3 10 1.294613540386nh
R_RL6 10 4 1.7721983568e-5
Kn_K1 L_L1 L_L2 -0.017037511782
Kn_K2 L_L1 L_L3 -0.017639388097
Kn_K3 L_L1 L_L4 -0.11483343713
Kn_K4 L_L1 L_L5 -0.116058001487
Kn_K5 L_L2 L_L3 0.990409955363
Kn_K6 L_L2 L_L4 0.9951970474545
Kn_K7 L_L2 L_L5 0.9855490677509
Kn_K8 L_L2 L_L6 -0.116084363933
Kn_K9 L_L3 L_L4 0.9857279876938
Kn_K10 L_L3 L_L5 0.9951350952252
Kn_K11 L_L3 L_L6 0.0222546052149
Kn_K12 L_L4 L_L5 0.990534345077
Kn_K13 L_L4 L_L6 -0.11498818033
Kn_K14 L_L5 L_L6 0.0224548722953
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_22 1 2 3 4 REF
C_C1 1 REF 0.3470488460515pf
C_C2 1 2 23.997302452898pf
C_C3 1 3 0.0209500952092pf
C_C4 1 4 0.3135107939131pf
C_C5 2 REF 0.681629619174pf
C_C6 2 3 0.1357712264778pf
C_C7 3 REF 0.5973183658053pf
C_C8 4 REF 0.5910953860567pf
L_L1 1 5 0.9615260317847nh
R_RL1 5 2 -0.012811844982
L_L2 3 6 1.2960939526361nh
R_RL2 6 4 1.2900507045e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_23 1 2 3 4 REF
C_C1 1 REF 0.4334982954283pf
C_C2 1 2 13.080655285296pf
C_C3 1 3 0.0654094944869pf
C_C4 1 4 0.1919102116541pf
C_C5 2 REF 0.6122067828694pf
C_C6 2 3 0.0941888152381pf
C_C7 3 REF 0.5966823974191pf
C_C8 4 REF 0.5892178276855pf
L_L1 1 5 1.3335253134283nh
R_RL1 5 2 -0.01806031519
L_L2 3 6 1.2939835540625nh
R_RL2 6 4 -1.84149427e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_24 1 2 3 4 REF
C_C1 1 REF 0.4725860368689pf
C_C2 1 2 8.5812054489581pf
C_C3 1 3 0.0892321371247pf
C_C4 1 4 0.1410311236623pf
C_C5 2 REF 0.5890519556567pf
C_C6 2 3 0.0745055212056pf
C_C7 2 4 0.0334263824952pf
C_C8 3 REF 0.5950654524209pf
C_C9 4 REF 0.5868876495639pf
L_L1 1 5 1.7497217966324nh
R_RL1 5 2 -0.012442387154
L_L2 3 6 1.2914953013181nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_25 1 2 3 4 REF
C_C1 1 REF 0.4948184639322pf
C_C2 1 2 6.7994846791407pf
C_C3 1 3 0.1075542846121pf
C_C4 1 4 0.1166847890202pf
C_C5 2 REF 0.5877178066858pf
C_C6 2 3 0.0612866030317pf
C_C7 2 4 0.0631291174017pf
C_C8 3 REF 0.593040699977pf
C_C9 4 REF 0.5843506526622pf
L_L1 1 5 1.8971682486604nh
R_RL1 5 2 -4.670179231e-4
L_L2 3 6 1.2883257630693nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_26 1 2 3 4 REF
C_C1 1 REF 0.5046044615343pf
C_C2 1 2 6.4681982885187pf
C_C3 1 3 0.1201532359699pf
C_C4 1 4 0.1076035851818pf
C_C5 2 REF 0.5948729769657pf
C_C6 2 3 0.0526428662734pf
C_C7 2 4 0.0764771279528pf
C_C8 3 REF 0.5914917834969pf
C_C9 4 REF 0.5823829516418pf
L_L1 1 5 1.9206289857531nh
R_RL1 5 2 5.7975242822e-5
L_L2 3 6 1.2869710635477nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param14_26

